US07994196B2
A mixture of 2-iodothiophene (Aldrich Co., 1.0 g), 1-(tert-butoxycarbonyl)piperazine (Aldrich Co. (hereafter the same), 1.06 g), copper(I) iodide (45 mg), ethylene glycol (530 μl), potassium phosphate (2.02 g) and 2-propanol (5 ml) was heated under reflux for 20 hr. Ethyl acetate was added, and the mixture was filtered through a Celite (trademark) filter. The filtrate was washed 3 times with 28% aqueous ammonia, and then washed with saturated brine. The solvent was evaporated under reduced pressure to give a brown solid. The solid was purified by silica gel column chromatography (elution solvent: ethyl acetate-hexane (7:3)) to give 4-(2-thienyl)piperazine-1-carboxylic acid tert-butyl ester (984 mg, yield 77%).

reactant | 2-iodothiophene | 1.0 g | IC=1SC=CC1 | C4H3IS
reactant | 1-(tert-butoxycarbonyl)piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | ethylene glycol | 530 μl | C(CO)O | C2H6O2
reactant | potassium phosphate | 2.02 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper(I) iodide | 45 mg | [Cu]I
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 4-(2-thienyl)piperazine-1-carboxylic acid tert-butyl ester | 984 mg, yield 77% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=CC1 | C13H20N2O2S
